US05451596
To a mixture of 1-hydroxymethyl-1-triphenylmethylaminocyclopentane (2.95 g; 8.25 mmol) in 100 ml of THF is added sodium hydride (60%; 0.495 g; 12.38 mmol) and allowed to stir for 1 hr. To this mixture is then added 4-(benzoxazol -2-yl)benzyl bromide (1.90 g; 6.60 mmol) and heated to reflux for 48 hrs. The reaction mixture is quenched with H2O, concentrated in vacuo and flash chromatographed using 7:1; hexane:EtOAc to obtain 1-triphenylmethylamino(4-[benzoxazol-2-yl]benzyloxymethyl)cyclopentane which is used directly in the next step.

reactant | 1-hydroxymethyl-1-triphenylmethylaminocyclopentane | 8.25 mmol, 2.95 g | OCC1(CCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
reactant | sodium hydride | 12.38 mmol, 0.495 g | [H-].[Na+]
reactant | 4-(benzoxazol -2-yl)benzyl bromide | 6.60 mmol, 1.90 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-triphenylmethylamino(4-[benzoxazol-2-yl]benzyloxymethyl)cyclopentane | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1(CCCC1)COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C39H36N2O2
